US07214800B2
a) 2-[(R)-1-(3-Phthalimido-2-oxo-propylamino)-2-methyl-propyl]-3-benzyl-7-chloro-3H-quinazolin-4-one
To 2-((R)-1-amino-2-methyl-propyl)-3-benzyl-7-chloro-3H-quinazolin-4-one (5.0 g, 14.6 mMol) and K2CO3 (2.1 g, 15.2 mMol) in DMF (50 mL) was added N-(3-Bromo-2-oxopropyl)-phthalimide (4.5 g, 14.8 mMol) (Nair et al.; J. Org. Chem.; 40; 1975; 1745). The reaction was stirred at RT for 3 h, concentrated under vacuum, taken up in EtOAc, washed with water, brine, dried (Na2SO4) and evaporated to give the title compound (7.94 g, 14.6 mMol) as an off-white solid: MS (ES) m/e 543.2 (M+H)+.

reactant | 2-((R)-1-amino-2-methyl-propyl)-3-benzyl-7-chloro-3H-quinazolin-4-one | 14.6 mMol, 5.0 g | N[C@H](C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl | C19H20ClN3O
reactant | K2CO3 | 15.2 mMol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(3-Bromo-2-oxopropyl)-phthalimide | 14.8 mMol, 4.5 g | BrCC(CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C11H8BrNO3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-[(R)-1-(3-Phthalimido-2-oxo-propylamino)-2-methyl-propyl]-3-benzyl-7-chloro-3H-quinazolin-4-one | 14.6 mMol, 7.94 g | C1(C=2C(C(N1CC(CN[C@H](C(C)C)C1=NC3=CC(=CC=C3C(N1CC1=CC=CC=C1)=O)Cl)=O)=O)=CC=CC2)=O | C30H27ClN4O4
